US04237137
2,6-Dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid bis-(2-trimethylsilyl-ethyl) ester
After boiling 5.0 g of 2-trimethylsilylethyl acetoacetate, 1.9 g of 3-nitrobenzaldehyde and 1.5 ml of concentrated ammonia in 10 ml of 96 percent strength ethanol for 20 hours, then cooling and filtering off the product, 3.5 g of pale yellow crystals of melting point 120° C. (ethanol) are obtained.

reactant | 2-trimethylsilylethyl acetoacetate | 5.0 g | C(CC(=O)C)(=O)OCC[Si](C)(C)C | C9H18O3Si
reactant | 3-nitrobenzaldehyde | 1.9 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ammonia | 1.5 ml | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 2,6-Dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid bis-(2-trimethylsilyl-ethyl) ester | C[Si](CCOC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC[Si](C)(C)C)C)C)(C)C | C25H38N2O6Si2
